US05462940
IV. Synthesis of 1-Amino-3-[4-(4-methyl-1-piperazinyl)butyl]-2,4-imidazolidinedione Hydrochloride
A mixture of 1-phenylmethyleneamino-3-[4-(4-methyl-1-piperazinyl)butyl]-2,4-imidazolidinedione dihydrochloride (8.04 g, 0.0187 mole), 2N HCl (125 ml) and 5% Pd/C:50% H2O (1.5 g, is subjected to hydrogen on a Parr apparatus at 40 psi at ambient temperature. After 2 hours, the catalyst is removed by filtration. The filtrate is divided into two equal portions. Each is concentrated under reduced pressure on a rotary evaporator to an oily residue of 1-amino-3-[4-(4-methyl-1-piperazinyl)butyl]-2,4-imidazolidinedione hydrochloride.

reactant | 1-phenylmethyleneamino-3-[4-(4-methyl-1-piperazinyl)butyl]-2,4-imidazolidinedione dihydrochloride | 0.0187 mole, 8.04 g | Cl.Cl.C1(=CC=CC=C1)C=NN1C(N(C(C1)=O)CCCCN1CCN(CC1)C)=O
reactant | HCl | 2N, 125 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | H2O | O | H2O
product | 1-Amino-3-[4-(4-methyl-1-piperazinyl)butyl]-2,4-imidazolidinedione Hydrochloride | Cl.NN1C(N(C(C1)=O)CCCCN1CCN(CC1)C)=O | InChI=1S/C12H23N5O2.ClH/c1-14-6-8-15(9-7-14)4-2-3-5-16-11(18)10-17(13)12(16)19;/h2-10,13H2,1H3;1H
